US03950522
Reacting 2-(6-methyl-2-pyridyl)-3-thiobutenamide with allylamine by the procedure of Example 7 gives N-allyl-2-(6-methyl-2-pyridyl)-3-thiobutenamide.

reactant | 2-(6-methyl-2-pyridyl)-3-thiobutenamide | CC1=CC=CC(=N1)C(C(=S)N)C=C | C10H12N2S
reactant | allylamine | C(C=C)N | C3H7N
product | N-allyl-2-(6-methyl-2-pyridyl)-3-thiobutenamide | C(C=C)NC(C(C=C)C1=NC(=CC=C1)C)=S | C13H16N2S
